US06353006B1
(1S)-1-Cyclohexyl-1-ethylamine was reacted with 1,2-epoxy-2-methylpropane according to Method B5b to give N-((1S)-1-cyclohexyl-1-ethyl)-N-(2,2-dimethyl-2-hydroxyethyl)amine. N-((1S)-1-Cyclohexyl-1-ethyl)-N-(2,2-dimethyl-2-hydroxyethyl)amine was reacted with SOCl2 followed by 2,4-dichlorophenyl isothiocyanate according to Method C2f to afford 2-(2,4-dichlorophenylimino)-3-((1S)-1-cyclohexyl-1-ethyl)-5,5-dimethyl-1,3-thiazolidine HCl salt.

reactant | N-((1S)-1-Cyclohexyl-1-ethyl)-N-(2,2-dimethyl-2-hydroxyethyl)amine | C1(CCCCC1)[C@H](C)NCC(O)(C)C | C12H25NO
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | 2,4-dichlorophenyl isothiocyanate | ClC1=C(C=CC(=C1)Cl)N=C=S | C7H3Cl2NS
product | 2-(2,4-dichlorophenylimino)-3-((1S)-1-cyclohexyl-1-ethyl)-5,5-dimethyl-1,3-thiazolidine HCl salt | Cl.ClC1=C(C=CC(=C1)Cl)N=C1SC(CN1[C@@H](C)C1CCCCC1)(C)C | InChI=1S/C19H26Cl2N2S.ClH/c1-13(14-7-5-4-6-8-14)23-12-19(2,3)24-18(23)22-17-10-9-15(20)11-16(17)21;/h9-11,13-14H,4-8,12H2,1-3H3;1H/t13-;/m0./s1
